US06965048B2
To 12.64 g (36.17 mmol) of trans-methanesulfonic acid 4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexylmethyl ester in 100 mL of DMF were added 4.51 g (92 mmol, 2.6 eq) of sodium cyanide, and the solution was stirred at 80° C. for 2 hours. After cooling the reaction mixture to RT, it was partitioned between ether and water. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give 10.14 g (quantitative) of crude trans-[2-(4-cyanomethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester as colorless oil, MS: 298 (M+NH4+).

reactant | trans-methanesulfonic acid 4-[2-(tert-butoxycarbonyl-methyl-amino)-ethyl]-cyclohexylmethyl ester | 36.17 mmol, 12.64 g | C(C)(C)(C)OC(=O)N(CC[C@@H]1CC[C@H](CC1)COS(=O)(=O)C)C | C16H31NO5S
reactant | sodium cyanide | 92 mmol, 4.51 g, 2.6 eq | [C-]#N.[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | trans-[2-(4-cyanomethyl-cyclohexyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 10.14 g | C(C)(C)(C)OC(N(C)CC[C@@H]1CC[C@H](CC1)CC#N)=O | C16H28N2O2
